US04827004
4.86 g of magnesium shavings, 100 mg of mercury(II) chloride and 100 ml of ether are placed under an argon atmosphere in a 500 ml sulfonation flask provided with a mechanical stirrer, a dropping funnel and a thermometer. The dropping funnel is charged with a solution of 23.8 g (15.1 ml) of propargyl bromide in 50 ml of ether and 1.0 ml of this solution is added dropwise to the above mixture at room temperature. After the reaction has begun the mixture is cooled to -20° and the remainder of the propargyl bromide solution is added dropwise within 3 hours so that the reaction temperature does not exceed -15°. After completion of the addition the mixture is stirred at -20° for a further 15 minutes. A solution of 28.0 g of (E,E)-4,8-dimethyl-10-[(tetrahyro-2H-pyran-2-yl)-oxy]-4,8-decadienal in 50 ml of ether is then added dropwise at 0°. After the addition of half of this solution a precipitate results, whereupon 100 ml of ether and 100 ml of tetrahydrofuran are added in order to facilitate the stirring. The remainder of the mentioned solution is subsequently added dropwise at 5°-10° and the resulting grey suspension is stirred overnight in a melting ice-bath and then poured into a mixture of ice and saturated ammonium chloride solution. The organic phase is separated and the aqueous phase is extracted twice with hexane. The combined organic phases are washed with saturated ammonium chloride solution, saturated sodium bicarbonate solution and saturated sodium chloride solution, dried over sodium sulphate, filtered and evaporated. The residue is chromatographed on 1.0 kg of silica gel with hexane-ethyl acetate 10%→25%. There is obtained (E,E)-7,11-dimethyl-13-[(tetrahydro-2H-pyran-2-yl)oxy]-7,11-tridecadien-trien-1-yn-4-ol as a yellow oil. IR (film): 3450 (OH); 3307, 2118 (--C≡C--H); 1667 (C=C). MS: 236 (1, (M-dihydro-pyran, C5H8O)+); 218 (0,5, (M-(2-hydroxytetrahydro-pyran, C5H10O2))+); 85 (100, C5H9O+).

reactant | magnesium | 4.86 g | [Mg] | Mg
reactant | propargyl bromide | 15.1 ml, 23.8 g | C(C#C)Br | C3H3Br
reactant | (E,E)-4,8-dimethyl-10-[(tetrahyro-2H-pyran-2-yl)-oxy]-4,8-decadienal | 28.0 g | C/C(/CCC=O)=C\CC\C(=C\COC1OCCCC1)\C | C17H28O3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
catalyst | mercury(II) chloride | 100 mg | [Hg](Cl)Cl
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (E,E)-7,11-dimethyl-13-[(tetrahydro-2H-pyran-2-yl)oxy]-7,11-tridecadien-trien-1-yn-4-ol | CC(/C=C/C(=C\C#C)/O)=CC=CC(=CCOC1OCCCC1)C | C20H26O3
